US06458814B1
b) (±)-3-Phenyl-4-[4-[[[3-(pyridin-2-yl)amino-1-propyl]amino]carbonyl]-1,3-oxazol-2-yl]butanoic acid
To a solution of ethyl (±)-3-phenyl-4-[4-[[[3-(pyridin-2-yl)amino-1-propyl]amino]carbonyl]-1,3-oxazol-2-yl]butanoate (131 mg, 0.30 mmole) in 1:1 THF/H2O (10 mL) was added 1N LiOH (0.36 mL, 0.36 mmole). After 18 hr, the mixture was concentrated under reduced pressure. The residue was dissolved in 20 mL H2O then acidified to pH 6 using 10% HCl. The resulting cloudy solution was extracted with CH2Cl2 (3×75 mL). The organic extracts were dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was triturated with Et2O to give the title compound as a white solid (63 mg, 51%) which was collected by filtration. MS (ES) m/e 409 (M+H)+. Anal. Calcd for C22H24N4O4.0.75 H2O, 1.5 HCl: C, 55.44; H, 5.71; N, 11.75. Found: C, 55.49; H, 5.54; N, 11.63.

reactant | ethyl (±)-3-phenyl-4-[4-[[[3-(pyridin-2-yl)amino-1-propyl]amino]carbonyl]-1,3-oxazol-2-yl]butanoate | 0.30 mmole, 131 mg | C1(=CC=CC=C1)C(CC(=O)OCC)CC=1OC=C(N1)C(=O)NCCCNC1=NC=CC=C1 | C24H28N4O4
reactant | LiOH | 0.36 mmole, 1N, 0.36 mL | [Li+].[OH-]
solvent | THF H2O | 10 mL | C1CCOC1.O
product | (±)-3-Phenyl-4-[4-[[[3-(pyridin-2-yl)amino-1-propyl]amino]carbonyl]-1,3-oxazol-2-yl]butanoic acid | 63 mg, 51% | C1(=CC=CC=C1)C(CC(=O)O)CC=1OC=C(N1)C(=O)NCCCNC1=NC=CC=C1 | C22H24N4O4
